US08895745B2
Step 1: [2-(3-{3-[7-(4-Fluoro-phenyl)-imidazo[1,2-a]pyridin-3-yl]-phenyl}-ureido)-ethyl]-carbamic acid tert-butyl ester
Imidazol-1-yl-(3H-pyrrol-3-yl)-methanone (240 mg, 1.5 mmol) was added to a stirred solution of 3-[7-(4-fluoro-phenyl)-imidazo[1,2-a]pyridin-3-yl]phenylamine (450 mg, 1.5 mmol) in THF (10 ml) at 0° C. under N2. The mixture was stirred at this temperature for 2 hours and then at RT for 3 hours. Half of the reaction mixture was transferred to a separate flask and treated with (2-amino-ethyl)-carbamic acid tert-butyl ester (320 mg, 2 mmol). The mixture was stirred at RT for 16 hours. The volatiles were removed in vacuo and the residue was purified using silica chromatography (2→4% 2M NH3-MeOH/CH2Cl2) to give the title compound (85 mg, foam). MS: [M+H]+ 490.

reactant | Imidazol-1-yl-(3H-pyrrol-3-yl)-methanone | 1.5 mmol, 240 mg | N1(C=NC=C1)C(=O)C1C=NC=C1 | C8H7N3O
reactant | 3-[7-(4-fluoro-phenyl)-imidazo[1,2-a]pyridin-3-yl]phenylamine | 1.5 mmol, 450 mg | FC1=CC=C(C=C1)C1=CC=2N(C=C1)C(=CN2)C=2C=C(C=CC2)N | C19H14FN3
reactant | (2-amino-ethyl)-carbamic acid tert-butyl ester | 2 mmol, 320 mg | C(C)(C)(C)OC(NCCN)=O | C7H16N2O2
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | [2-(3-{3-[7-(4-Fluoro-phenyl)-imidazo[1,2-a]pyridin-3-yl]-phenyl}-ureido)-ethyl]-carbamic acid tert-butyl ester | 85 mg | C(C)(C)(C)OC(NCCNC(=O)NC1=CC(=CC=C1)C1=CN=C2N1C=CC(=C2)C2=CC=C(C=C2)F)=O | C27H28FN5O3
